Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right ___ aneurysm.
 
Major Surgical or Invasive Procedure:
___ - Pipeline embo right ___ aneurysm.
 
History of Present Illness:
Ms. ___ is a ___ woman who is semiretired in
property management.  ___ years ago, she had urinary tract
infection and had an MRI study at that time with mental status
changes.  She was not told but was, apparently, diagnosed with 
an
aneurysm at that point in time.  

Recently, two months ago, she had diverticulitis and again had
mental status changes.  An MRI/MRA demonstrates ___ aneurysm
on the right side, which is approximately 4 mm in diameter.  It
is irregular in shape and may well arise from the ___ itself, 
as
opposed the ___ vertebral junction.  

I had a long discussion with the patient and her husband
regarding the natural history of aneurysms as well as potential
treatment options of endovascular and surgical management.  I do
plan to review all of her films at our weekly neurovascular
conference here at the ___ Brain Aneurysm Institute.  Once 
this
review is complete, we can better make estimate of risks and
benefits of continued observation versus potential intervention
with either surgery or endovascular techniques.

She is a nonsmoker and has no family history of aneurysm.  She
herself does have a cardiac aneurysm.

 
Past Medical History:
She herself does have a cardiac aneurysm.
 
Social History:
___
Family History:
No history of aneurysm. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
A&Ox3
PERRL 
EOMI 
face symmetric 
no drift 
MAE ___
groin c/d/I
pulses intact 
 
Pertinent Results:
Please see OMR for pertinent lab and imaging studies. 
 
Brief Hospital Course:
#Right ___ Aneurysm
The patient was taken to the INR suite on the day of admission, 
___ and underwent a pipeline embolization of the right ___ 
aneurysm. She tolerated the procedure well and was recovered in 
the PACU. She later was transferred to the ___ for close 
monitoring. She remained neurologically intact. On POD#1 
patient's pain was well controlled using Tylenol, she was 
ambulating independently, she was tolerating a diet, she was 
voiding without issue. She was discharged home in good condition 
with instructions for follow up. 

 
Medications on Admission:
___ AIr HFA 90 2 puffs q 6, arorvastatin 10 mg hs, Plavix 75 
qd, fluticasone 50 mcg NS, metoprolol succ ER 25 ___ 325 
qd,  mutivit qd  
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*12 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*3 
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
5.  Atorvastatin 10 mg PO QPM  
6.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery. This 
will prevent clots from developing and sticking to the stent.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___